US08865736B2
2,6-Difluoro-3-[(2-methyl-4-pyridinyl)methoxy]benzenecarboxamide
Synthesised from 2,6-difluoro-3-hydroxybenzenecarboxamide according to Method C, scheme 3. The required building block, 4-hydroxymethyl-2-methylpyridine, was synthesised according to the literature method, shown in Scheme 23 (Ragan, J. A., Jones, B. P., Meltz, C. N., Teixeira J. J. Jr.; Synthesis 2002, 483-486. Yield 34%, mp 185-186° C., HPLC-MS (method 1): m/z 279 [M+H]+, Rt=2.50 min.

reactant | 2,6-difluoro-3-hydroxybenzenecarboxamide | FC1=C(C(=CC=C1O)F)C(=O)N | C7H5F2NO2
reactant | 4-hydroxymethyl-2-methylpyridine | OCC1=CC(=NC=C1)C | C7H9NO
product | 2,6-Difluoro-3-[(2-methyl-4-pyridinyl)methoxy]benzenecarboxamide | Yield 34% | FC1=C(C(=CC=C1OCC1=CC(=NC=C1)C)F)C(=O)N | C14H12F2N2O2
